US06756497B1
Preparation of ethyl 4-ethylthio-2-methyl-3-(3-methylisoxazol-5-yl)benzoate
Into a 250-ml round-bottomed flask were placed 0.311 g of ethyl mercaptan, 0.018 g of water and 6 ml of DMF, and then 0.346 g of potassium carbonate and 0.314 g of ethyl 4,5-dichloro-2-methyl-3-(3-methylisoxazol-5-yl)benzoate were adder The resulting mixture was stirred with a magnetic stirrer at room temperature for 6 hours under the irradiation of 40W fluorescent light. The reaction solution was poured into 25 ml of ice-water, and extracted with 25 ml of diethyl ether. The organic layer was washed with water, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The obtained crude product was purified on silica gel column chromatography (elution with n-hexane/ethyl acetate=95/5) to give 0.132 g of the title compound as white crystals. Melting point: 39-40° C.

reactant | ethyl mercaptan | 0.311 g | C(C)S | C2H6S
reactant | water | 0.018 g | O | H2O
reactant | potassium carbonate | 0.346 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4,5-dichloro-2-methyl-3-(3-methylisoxazol-5-yl)benzoate | 0.314 g | ClC1=C(C(=C(C(=O)OCC)C=C1Cl)C)C1=CC(=NO1)C | C14H13Cl2NO3
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | ethyl 4-ethylthio-2-methyl-3-(3-methylisoxazol-5-yl)benzoate | 0.132 g | C(C)SC1=C(C(=C(C(=O)OCC)C=C1)C)C1=CC(=NO1)C | C16H19NO3S
